US08258316B2
To a solution of 1-[5-(trifluoromethyl)pyrid-2-yl]piperazine (2.00 g, 8.65 mmol) in ethanol (25 mL) and DIPEA (3.3 mL, 19.0 mmol) was added ethyl 2-bromopropionate (1.20 mL, 9.51 mmol). The reaction mixture was heated to 70° C. After 14 hours, the reaction mixture was cooled to room temperature, concentrated and purified by flash chromatography on silica gel with elution using 50% ethyl acetate/hexanes to give 2-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]propionic acid ethyl ester.

reactant | 1-[5-(trifluoromethyl)pyrid-2-yl]piperazine | 8.65 mmol, 2.00 g | FC(C=1C=CC(=NC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | DIPEA | 19.0 mmol, 3.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 2-bromopropionate | 9.51 mmol, 1.20 mL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]propionic acid ethyl ester | C(C)OC(C(C)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)=O | C15H20F3N3O2
